US07601722B2
A mixture of 1-(2-bromoethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (prepared in an analogous manner as described in general procedure VI, 112 mg, 0.317 mmol), tert-butyl 1-homopiperazinecarboxylate (381 mg, 1.90 mmol, 6 equiv.), sodium carbonate (202 mg, 1.90 mmol, 6 equiv.) and ethanol (4 mL) in a sealed reaction vessel was heated at 90° C. for 8 h. After cooling, solvent was removed, and the residue was dissolved in ethyl acetate (15 mL). The resulting solution was washed with an aqueous potassium carbonate solution, water, dried (anhydrous sodium sulfate), and concentrated. The crude liquid was pre-adsorbed onto Florisil and purified via Isco flash column chromatography (4-g redisep silica gel column, 10-60% ethyl acetate/hexane) to give tert-butyl 4-[2-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)ethyl]-1,4-diazepane-1-carboxylate as a viscous, colorless liquid. Yield: 121 mg (81%). MS (ESI) m/z 473.0 ([M+H]+). HPLC purity 100.0% at 210-370 nm, 9.7 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 1-(2-bromoethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | BrCCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O | C14H13BrN2O2S
reactant | tert-butyl 1-homopiperazinecarboxylate | 1.90 mmol, 381 mg, 6 equiv. | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium carbonate | 1.90 mmol, 202 mg, 6 equiv. | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | tert-butyl 4-[2-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)ethyl]-1,4-diazepane-1-carboxylate | O=S1(N(C2=C(N1CCN1CCN(CCC1)C(=O)OC(C)(C)C)C=CC=C2)C2=CC=CC=C2)=O | C24H32N4O4S
